US08471005B2
2-Methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine (125.0 mg, 0.0004335 mol), N,N-Diisopropylethylamine (0.249 mL, 0.00143 mol) and 5-Amino-1-methyl-1,3-dihydro-indol-2-one (0.141 g, 0.000867 mol) were dissolved in 1-Methoxy-2-propanol (0.498 mL, 0.00510 mol) and the reaction was irradiated at 300 watts, 180° C. for 40 minutes or until HPLC showed consumption of starting material. The reaction mixture was then reduced en vacuo and the product was isolated and purified by Gilson prep HPLC to afford 13.85 mg of 5-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1-methyl-1,3-dihydro-indol-2-one as a lyophilized powder. (M+H)=387.1. 1H NMR (400 MHz, DMSO, d6) δ 9.40 (s, 1H), 8.96 (s, 2H), 8.47 (d, 1H, J=8.73 Hz), 7.82 (s, 1H), 7.51 (d, 1H, J=8.40 Hz), 7.16 (d, 1H, J=4.37 Hz), 7.04 (d, 1H, J=8.65 Hz), 6.91 (m, 2H), 3.95 (s, 3H), 3.59 (s, 2H), 3.12 (s, 3H).

reactant | 2-Methanesulfinyl-7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazine | 0.0004335 mol, 125.0 mg | CS(=O)C1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC | C13H12N4O2S
reactant | N,N-Diisopropylethylamine | 0.00143 mol, 0.249 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-Amino-1-methyl-1,3-dihydro-indol-2-one | 0.000867 mol, 0.141 g | NC=1C=C2CC(N(C2=CC1)C)=O | C9H10N2O
reactant | 1-Methoxy-2-propanol | 0.00510 mol, 0.498 mL | COCC(C)O | C4H10O2
product | 5-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-1-methyl-1,3-dihydro-indol-2-one | 13.85 mg | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC=2C=C1CC(N(C1=CC2)C)=O | C21H18N6O2
